US08058045B2
A solution of 4-(aminomethyl)-1-boc-piperidine (370 mg, 1.73 mmol) in acetonitrile (1 mL) was added over 1 minute to a solution of 2-bromo-4-chloro-5-nitropyridine (373 mg, 1.57 mmol) and triethylamine (0.24 mL, 1.73 mmol) in acetonitrile (5 mL). The solution was stirred for 30 minutes then partitioned between dichloromethane and water. The aqueous phase was extracted with dichloromethane (×3) and the combined organic phases were dried (Na2SO4) and concentrated to give tert-butyl 4-((2-bromo-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate as a light brown foam (640 mg, 98%) which was used without further purification.

reactant | 4-(aminomethyl)-1-boc-piperidine | 1.73 mmol, 370 mg | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | 2-bromo-4-chloro-5-nitropyridine | 1.57 mmol, 373 mg | BrC1=NC=C(C(=C1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | triethylamine | 1.73 mmol, 0.24 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tert-butyl 4-((2-bromo-5-nitropyridin-4-ylamino)methyl)piperidine-1-carboxylate | 640 mg, 98% | BrC1=NC=C(C(=C1)NCC1CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C16H23BrN4O4
